US07468457B2
b. Preparation of Methyl 3-tert-butyl-4-hydroxy-5-iodobenzoate
24.7 g (77 mmol) of 3-tert-Butyl-4-hydroxy-5-iodobenzoic acid are dissolved in 500 mL of methanol and 50 mL of THF. 5 mL of concentrated sulfuric acid are added and the reaction medium is refluxed for 18 hours. The reaction medium is concentrated under reduced pressure and then diluted in a dichloromethane/water mixture. The organic phase is washed with water and then concentrated under reduced pressure. A yellow solid is obtained (m=24.1 g; yield=94%; m.p.=67° C.).

reactant | 3-tert-Butyl-4-hydroxy-5-iodobenzoic acid | 77 mmol, 24.7 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)I | C11H13IO3
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 500 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Methyl 3-tert-butyl-4-hydroxy-5-iodobenzoate | yield=94% | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1O)I | C12H15IO3
